US06743785B2
5,6-Dihydro-4H-pyrrolo[3,2,1-ij]quinoline-1-carboxylic acid ethyl ester
Magnesium chloride (27.7 g, 0.29 mol) was added to 2-methoxyethanol (400 mL) and the mixture heated to reflux. A solution of 3-(3,4-Dihydro-2H-quinolin-1-yl)-2-oxopropionic acid ethyl ester (0.29 mol) in 2-methoxyethanol (100 mL) and tetrahydrofuran (40 mL) was slowly added to the MgCl2 mixture over 1 hour. Upon completion of addition, the mixture was stirred for 5 hours at reflux, and then concentrated in vacuo. The concentrated crude mixture was treated with 2N hydrochloric acid (500 mL) and extracted with dichloromethane (3×400 mL). The combined organic layers were dried over Na2SO4, filtered and concentrated in vacuo. The residue was subjected to silica gel chromatography, eluting with 20% ethyl acetate/hexanes. Fractions containing product were combined and concentrated under reduced pressure to provide 31.6 g (48%) of the desired compound as an orange solid.

reactant | Magnesium chloride | 0.29 mol, 27.7 g | [Cl-].[Mg+2].[Cl-]
reactant | 3-(3,4-Dihydro-2H-quinolin-1-yl)-2-oxopropionic acid ethyl ester | 0.29 mol | C(C)OC(C(CN1CCCC2=CC=CC=C12)=O)=O | C14H17NO3
reactant | MgCl2 | [Mg+2].[Cl-].[Cl-]
solvent | 2-methoxyethanol | 100 mL | COCCO | C3H8O2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | 2-methoxyethanol | 400 mL | COCCO | C3H8O2
product | 5,6-Dihydro-4H-pyrrolo[3,2,1-ij]quinoline-1-carboxylic acid ethyl ester | 31.6 g, 48% | C(C)OC(=O)C1=CN2CCCC3=CC=CC1=C23 | C14H15NO2
